US07618978B2
(2R, 5R)-5-Benzyloxy-2-formyl-piperidine-1-carboxylic acid tert-butyl ester
Add sulfur trioxide pyridine complex (0.27 g, 1.7 mmol) in dimethylsulfoxide (0.95 mL, 13.0 mmol) to (2R, 5R)-5-Benzyloxy-2-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester (0.27 g, 0.84 mmol) in triethylamine (0.70 mL, 5.0 mmol) at 10° C. and stir at room temperature for 30 minutes. Quench with water and extract with diethyl ether. Combine the organic layers, wash with 5% aqueous citric acid followed by saturated aqueous sodium chloride, dry over magnesium sulfate and concentrate. The residue may be used without further purification.

reactant | dimethylsulfoxide | 13.0 mmol, 0.95 mL | CS(=O)C | C2H6OS
reactant | (2R, 5R)-5-Benzyloxy-2-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 0.84 mmol, 0.27 g | C(C)(C)(C)OC(=O)N1[C@H](CC[C@H](C1)OCC1=CC=CC=C1)CO | C18H27NO4
reactant | triethylamine | 5.0 mmol, 0.70 mL | C(C)N(CC)CC | C6H15N
product | (2R, 5R)-5-Benzyloxy-2-formyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CC[C@H](C1)OCC1=CC=CC=C1)C=O | C18H25NO4
